US05534535
(±)(1R*, 2S*, 3R*, 5R*)-3-(Acetoxymethyl)-5-(4,5-dichloro-2-nitroanilino)-1,2-cyclopentanediyl diacetate (5.00 g, 10.8 mmol) was stirred in ammonia/methanol (ca. 2N, 100 mL) at ambient temperature for 18 hours. Evaporation of volatiles in vacuo left residual orange solid (±)-(1R*, 2S*, 3R*, 5R*)-5-(4,5-dichloro-2-nitroanilino)-3-(hydroxymethyl)-1,2-cyclopentanediol having an identical Rf on silica gel TLC plates to that of the chiral sample described in Example 54. This solid was reduced with Raney nickel/hydrogen(45 psi) in isopropanol (200 mL). Catalyst was filtered off with Celite. The filtrate-wash was evaporated to dryness in vacuo. The residue was refluxed in formic acid (96%, 50 mL) for one hour, as described in Example 2. The oil remaining on evaporation of the formic acid was dissolved in methanol. The pH was adjusted to 13 with aqueous 5N sodium hydroxide and the solution was stirred at ambient temperature for one hour to hydrolyze formate esters. The pH was adjusted to 7 with 1N hydrochloric acid and volatiles removed by evaporation in vacuo. Pyridine (100 mL) and acetic anhydride (4 mL) were added to the residue and the mixture stirred at ambient temperature overnight. Evaporation of volatiles in vacuo followed by chromatography on silica gel with 1% methanol-chloroform gave (±)(1R*, 2S*, 3R*, 5R*)-3-(acetoxymethyl)-5-(5,6-dichloro-1H-benzimidazol-1-yl)-1,2-cyclopentanediyl diacetate as white crystals from ethanol-water (2.6 g, 53%), 1H-NMR(DMSO-d6) consistent with structure.

reactant | 3-(Acetoxymethyl)-5-(4,5-dichloro-2-nitroanilino)-1,2-cyclopentanediyl diacetate | 10.8 mmol, 5.00 g | C(C)(=O)OC1C(C(CC1NC1=C(C=C(C(=C1)Cl)Cl)[N+](=O)[O-])COC(C)=O)OC(C)=O | C18H20Cl2N2O8
reactant | ammonia methanol | ca. 2N, 100 mL | N.CO
product | 3-(acetoxymethyl)-5-(5,6-dichloro-1H-benzimidazol-1-yl)-1,2-cyclopentanediyl diacetate | C(C)(=O)OC1C(C(CC1N1C=NC2=C1C=C(C(=C2)Cl)Cl)COC(C)=O)OC(C)=O | C19H20Cl2N2O6
